US04250085
3.27 g (7 mmol) of (1R)-1-[(N-benzyloxycarbonyl-L-histidyl-L-alanyl)amino]-ethylphosphonic acid were ground to a powder and then stirred vigorously at room temperature for 6 hours with a mixture of 15 ml of 45% hydrogen bromide in glacial acetic acid and 5 ml of glacial acetic acid. 75 ml of diethyl ether were added to precipitate a gum which was washed by decantation with a further 75 ml of diethyl ether. The residual gum was dissolved in 50 ml of methanol and two 3 ml portions of propylene oxide were added to the stirred solution to give a solid. The mixture was left to stand overnight and the solid was then filtered off and washed successively with methanol and diethyl ether to give 2.47 g of crude product of melting point 220°-230° C. (decomposition). Recrystallisation from a mixture of 50 ml of water and 125 ml of ethanol gave 2.02 g (87%) of (1R)-1-(L-histidyl-L-alanylamino)-ethylphosphonic acid of melting point 242°-245° C. (decomposition); [α]36520 =-166° (c=0.5% in water).

reactant | (1R)-1-[(N-benzyloxycarbonyl-L-histidyl-L-alanyl)amino]-ethylphosphonic acid | 7 mmol, 3.27 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O | C19H26N5O7P
reactant | hydrogen bromide | 15 ml | Br | BrH
reactant | diethyl ether | 75 ml | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | (1R)-1-(L-histidyl-L-alanylamino)-ethylphosphonic acid | 2.02 g, 87% | N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O | C11H20N5O5P
